US06339154B1
2-[3-[[3-(Dimethylamino)propyl]amino]-3-oxopropyl]phenyl N-octadecylcarbamate Hydrochloride (Compound 2)
4N Hydrochloric acid/ethyl acetate solution (0.10 ml) was added to a solution containing 2-[3-[[3-(dimethylamino)propyl]amino]-3-oxopropyl]phenyl N-octadecylcarbamate (0.20 g) in ethyl acetate (4 ml) while being cooled with ice. After being stirred for 20 minutes, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethyl acetate-ethanol, thereby yielding the entitled compound (0.15 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.10 ml | Cl.C(C)(=O)OCC
reactant | 2-[3-[[3-(dimethylamino)propyl]amino]-3-oxopropyl]phenyl N-octadecylcarbamate | 0.20 g | C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)NCCCN(C)C)=O | C33H59N3O3
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-[[3-(Dimethylamino)propyl]amino]-3-oxopropyl]phenyl N-octadecylcarbamate Hydrochloride | 0.15 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)NCCCN(C)C)=O | InChI=1S/C33H59N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-27-35-33(38)39-31-24-20-19-23-30(31)25-26-32(37)34-28-22-29-36(2)3;/h19-20,23-24H,4-18,21-22,25-29H2,1-3H3,(H,34,37)(H,35,38);1H
